US07361663B2
(R)-1-(tert-Butyloxycarbonyl)pyrrolidin-2-yl-acetic acid methyl ester (2.0 g, 8.2 mmol) is treated with THF (50 mL) and a 1 M solution of lithium bis(trimethylsilyl)amide in THF (24.7 mL, 24.7 mmol) at −75° C. under nitrogen. The reaction mixture is warmed to −30° C. for 30 min then cooled to −70° C. and treated dropwise with a solution of 3-bromomethylbenzonitrile (4.03 g, 20.7 mmol) in THF (20 mL). The reaction mixture is warmed to room temperature over 2 h then quenched with saturated bicarbonate (100 mL) and concentrated to remove organic solvent. The aqueous mixture is taken up in ethyl acetate (300 mL) and additional saturated bicarbonate solution (150 mL) and separated. The organic layer is washed with bicarbonate and brine, dried over magnesium sulfate and concentrated to give a yellow solid. The solid is extracted with 20% ethyl acetate/hexane; evaporation of the solvent gives 2-[1-(tert-Butyloxycarbonyl)pyrrolidin-2-yl]-3-(3-cyanophenyl)-propionic acid methyl ester as a tan oil. This material is treated with methylene chloride (30 mL) and trifluroacetic acid (10 mL) at 0° C. for 2 h. The volatiles are removed and the residue is purified by reverse phase HPLC. The 3-(3-cyanophenyl)-2-(pyrrolidin-2-yl)propionic acid methyl ester trifluroacetate so obtained is taken up in 1 N HCl and washed with ethyl ether (3×50 mL). The aqueous solution is basified with sodium bicarbonate (5 g) and extracted with ethyl acetate (3×100 mL). The combined organic layers are dried over magnesium sulfate and evaporated to dryness to give a crude mixture of isomers of 3-(3-Cyanophenyl)-2-(pyrrolidin-2-yl)-propionic acid methyl ester (0.88 g, 3.4 mmol). This material is used in the following reaction without further purification. Biphenyl-4-carboxylic acid (0.67 g, 3.4 mmol) is treated with DMF (15 mL), diisopropylethyl amine (0.59 mL, 3.4 mmol), TBTU (1.43 g, 3.4 mmol) until a homogenous solution is obtained. To this is added 3-(3-Cyanophenyl)-2-(pyrrolidin-2-yl)-propionic acid methyl ester (0.88 g, 3.4 mmol) in DMF (7.5 mL) and the reaction mixture is stirred at 35 C for 16 h. The reaction mixture is diluted with ethyl acetate (300 mL), washed with 1 N HCl (3×50 mL), water (3×50 mL), saturated bicarbonate and brine. The organic layer is dried over MgSO4, and concentrated to a residue which is chromatographed (methylene chloride:hexane:ethyl acetate; 5:4:1) to give the title compound (1.02 g, 2.3 mmol). 1H NMR (CDCl3, 300 MHz) □ 7.70-7.30(m, 13H), 4.70, 4.47(two m, 1H), 3.85-3.72(m, 1H), 3.66, 3.62(two s, 3H), 3.62-3.40(m, 2H), 3.20-3.08(m, 1H), 2.90-2.75(m, 1H), 2.20-2.05(m, 1H), 2.02-1.60(m, 3H).

reactant | (R)-1-(tert-Butyloxycarbonyl)pyrrolidin-2-yl-acetic acid methyl ester | 8.2 mmol, 2.0 g | COC(C[C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C12H21NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-bromomethylbenzonitrile | 20.7 mmol, 4.03 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 24.7 mmol, 24.7 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-[1-(tert-Butyloxycarbonyl)pyrrolidin-2-yl]-3-(3-cyanophenyl)-propionic acid methyl ester | COC(C(CC1=CC(=CC=C1)C#N)C1N(CCC1)C(=O)OC(C)(C)C)=O | C20H26N2O4
